US06900215B2
3-Bromo-6-fluoro-7-methylimidazo[1,2-α]pyrimidine (24 mg, 0.50 mmol) was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 2′-fluoro-5′-(6-fluoro-7-methylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile (21 mg, 58%) as a white powder: δH (400 MHz, CDCl3) 2.67 (3H, d, J 3), 7.39-7.43 (1H, m), 7.53-7.62 (4H, m), 7.69-7.74 (1H, m), 7.84 (1H, d, J 1), 7.86 (1H, s), 8.67 (1H, d, J 5); m/z (ES+) 347 (M++H).

reactant | 3-Bromo-6-fluoro-7-methylimidazo[1,2-α]pyrimidine | 0.50 mmol, 24 mg | BrC1=CN=C2N1C=C(C(=N2)C)F | C7H5BrFN3
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 2′-fluoro-5′-(6-fluoro-7-methylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | 21 mg, 58% | FC1=C(C=C(C=C1)C1=CN=C2N1C=C(C(=N2)C)F)C=2C(=CC=CC2)C#N | C20H12F2N4
